US07196224B2
2.0 g of 1,3,5-tris(p-tolylamino)benzene, 6.4 g of 1-iodo-naphthalene, 6.9 g of potassium carbonate, 1.0 g of copper powder, 0.7 g of 18-crown-6 (or 1,4,7,10,13,16-hexaoxacyclooctadecane) and 15 mL of mesitylene were placed in a 100 mL capacity glass flask and the reaction was carried out at a temperature of 170° C. for 18 hours under a nitrogen atmosphere. After the reaction, the resultant reaction mixture was extracted with toluene and the toluene solution was subjected to silica gel chromatography to fractionate the reaction product. The reaction product was then purified by recrystallization and then by sublimation to provide 2.2 g of the desired 1,3,5-tris(N-(p-methylphenyl)-N-(1-naphthyl)-amino)benzene (p-MTPNAB). The yield was 57%.

reactant | 1,3,5-tris(p-tolylamino)benzene | 2.0 g | C1(=CC=C(C=C1)NC1=CC(=CC(=C1)NC1=CC=C(C=C1)C)NC1=CC=C(C=C1)C)C | C27H27N3
reactant | 1-iodo-naphthalene | 6.4 g | IC1=CC=CC2=CC=CC=C12 | C10H7I
reactant | potassium carbonate | 6.9 g | C([O-])([O-])=O.[K+].[K+]
reactant | 18-crown-6 | 0.7 g | C1COCCOCCOCCOCCOCCO1 | C12H24O6
reactant | 1,4,7,10,13,16-hexaoxacyclooctadecane | O1CCOCCOCCOCCOCCOCC1 | C12H24O6
reactant | mesitylene | 15 mL | C1(=CC(=CC(=C1)C)C)C | C9H12
catalyst | copper | 1.0 g | [Cu] | Cu
product | 1,3,5-tris(N-(p-methylphenyl)-N-(1-naphthyl)-amino)benzene | 2.2 g, yield was 57% | CC1=CC=C(C=C1)N(C1=CC=CC2=CC=CC=C12)C1=CC(=CC(=C1)N(C1=CC=C(C=C1)C)C1=CC=CC2=CC=CC=C12)N(C1=CC=C(C=C1)C)C1=CC=CC2=CC=CC=C12 | C57H45N3
